US07368578B2
To a mixture of 3-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate (2.00 g), 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde (0.81 g) and N,N-dimethylformamide (50 mL) was added sodium hydride (60% in oil, 0.19 g) at room temperature, and the mixture was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate as colorless crystals (1.43 g, yield 56%) from a fraction eluted with ethyl acetate-hexane (2:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 146-148° C.

reactant | 3-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate | 2.00 g | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CCl)OC)C | C20H20ClNO6S
reactant | 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.81 g | OC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H8N2O2
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.19 g | [H-].[Na+]
solvent | Water | O | H2O
product | 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate | 1.43 g, yield 56% | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)COC1=NN(C=C1C=O)C1=CC=CC=C1)OC)C | C30H27N3O8S
